US07144899B2
A stirred solution of ethyl 2-oxo-(pyridin-2-yl)acetate (1.0 g, 5.6 mmol) in THF (15 mL) was cooled to −78° C. under an atmosphere of nitrogen. To this solution was added methyl magnesium bromide in THF (6.2 mL of a 1.0 M solution, 6.2 mmol) dropwise over 5 min. The cooling bath was removed and the stirred mixture was allowed to warm to ambient temperature over 2 h. Water (30 mL) was added and the mixture was extracted with EtOAc (50 mL). The organic phase was washed with brine, dried over anhydrous MgSO4, filtered, and the solvent was removed under reduced pressure. The residue was purified by pressurized silica gel column chromatography using 1:2 EtOAc:hexanes as eluant. Product-containing fractions were combined and the solvents were removed under reduced pressure to give ethyl 2-hydroxy-2-(2-pyridyl)acetate as a colorless liquid (0.90 g, 83%; HPLC RT=1.46 min, method A; TLC Rf=0.3 (1:2 EtOAc:hex); LCMS m/z=196; 1H NMR (400 MHz, CDCl3): δ 8.55 (dd, J=0.9, 4.8 Hz, 1H), 7.74 (dt, Jd=1.1 Hz, Jt=8.0 Hz, 1H), 7.57 (d, J=8.0 Hz, 1H), 7.26 (dd, J=4.5, 8.0 Hz, 1H), 5.45 (s, 1H), 4.19 (q, J=7.0 Hz, 2H), 1.82 (s, 3H), 1.23 (t, J=7.0 Hz, 3H)).

reactant | ethyl 2-oxo-(pyridin-2-yl)acetate | 5.6 mmol, 1.0 g | O=C(C(=O)OCC)C1=NC=CC=C1 | C9H9NO3
reactant | methyl magnesium bromide | C[Mg]Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | ethyl 2-hydroxy-2-(2-pyridyl)acetate | OC(C(=O)OCC)C1=NC=CC=C1 | C9H11NO3
